US06528525B1
2-(4-Isopropylphenoxy)-3-[4-[2-[2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]propionic acid (exemplification No. 7-233 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-isopropylphenoxy)-3-[4-[2-[2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]propionate (170 mg), which is the product of Example 98, was reacted with aqueous sodium hydroxide solution (1N, 0.58 ml) and the reaction mixture was treated to give the title compound (153 mg) as colorless crystals.

reactant | ethyl 2-(4-isopropylphenoxy)-3-[4-[2-[2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]propionate | 170 mg | C(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(=O)C=2C=CC(=NC2)C2=CC=C(C=C2)OC)C=C1 | C35H38N2O6
reactant | sodium hydroxide | 1N, 0.58 ml | [OH-].[Na+]
product | 2-(4-Isopropylphenoxy)-3-[4-[2-[2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]propionic acid | 153 mg | C(C)(C)C1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(=O)C=2C=CC(=NC2)C2=CC=C(C=C2)OC)C=C1 | C33H34N2O6
